US05138069
To a solution of 2.95 g of 1-[(2'-aminobiphenyl-4-yl)methyl]-2-butyl-4-chloro-5-methoxymethylimidazole and 1.07 mL of triethylamine in 30 mL of methylene chloride at -78° was added 2.59 mL of trifluoromethanesulfonic anhydride dropwise at such rate that the reaction temperature remains below -50°. Following the addition, the reaction mixture was allowed to warm slowly to 25°. At the point the mixture was poured into dilute aqueous acetic acid. The resulting suspension was stirred vigorously for several minutes and then extracted with methylene chloride. The combined organic phases were washed with water and brine, dried over anhydrous sodium sulfate, filtered and concentrated. Column chromatography on silica gel (elution: 20-50% ethyl acetate/benzene) afforded 0.80 g of 1-[(2'-trifluoromethanesulfonamidobiphenyl-4-yl)methyl]-2-butyl-4-chloro-5-methoxymethylimidazole, m.p. 148°-150°; NMR (200 MHz, CDCl3): δ7.60 (d, 1H); 7.44-7.27 (m, 5H); 7.07 (d, 2H); 5.20 (s, 2H); 4.29 (s, 2H); 3.27 (s, 3H); 2.57 (t, 2H); 1.65 (quint., 2H); 1.35 (sext., 2H); 0.88 (t, 3H).

reactant | 1-[(2'-aminobiphenyl-4-yl)methyl]-2-butyl-4-chloro-5-methoxymethylimidazole | 2.95 g | NC1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1COC)Cl)CCCC | C22H26ClN3O
reactant | triethylamine | 1.07 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 2.59 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 1-[(2'-trifluoromethanesulfonamidobiphenyl-4-yl)methyl]-2-butyl-4-chloro-5-methoxymethylimidazole | 0.80 g | FC(S(=O)(=O)NC1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1COC)Cl)CCCC)(F)F | C23H25ClF3N3O3S
